US07790720B2
A mixture of ethyl {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}acetate i102 (0.5 g, 1.41 mmol, 1 eq) and sodium hydroxide (0.2 g, 5 mmol, 3.5 eq) in ethanol (15 ml) is stirred at 60° C. for 1 h 30. A 1 N hydrochloric acid solution (6 ml) is added and ethanol is removed under vacuum. The residue is dissolved in ethyl acetate (200 ml). The organic layer is washed with water (2×50 ml), brine, dried over magnesium sulfate, filtered and concentrated to yield 0.5 g of {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}acetic acid i103 as a white solid. This solid is used as such in the next step.

reactant | ethyl {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}acetate | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)CC(=O)OCC | C17H20ClNO3S
reactant | sodium hydroxide | 5 mmol, 0.2 g, 3.5 eq | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 6 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}acetic acid | 0.5 g | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)CC(=O)O | C15H16ClNO3S
